US07320995B2
1-isopropylsulfonyl-2-amino-6-(2-(1-(ethyl)piperidin-4-yl)-5-(phenyl)-imidazol-4-yl)-benzimidazole
Stir a mixture of 1-isopropylsulfonyl-2-amino-6-(2-(piperidin-4-yl)-5-(phenyl)-imidazol-4-yl)-benzimidazole (0.574 g, 1.23 mmol), triethylamine (3.1 mmol), and iodoethane (1.54 mmol) in anhydrous dimethylformamide (5 mL) at room temperature for 6 hours. Partition the mixture between ethyl acetate and water. Extract the aqueous layer with ethyl acetate (3 times). Wash the combined organic layers sequentially with cold water (5 times) and saturated aqueous sodium chloride, dry over sodium sulfate, and concentrate under reduced pressure. Subject the residue to silica gel chromatography to provide the title compound in 76% yield. MS(ES+): m/z=493.2 (M+H)+

reactant | 1-isopropylsulfonyl-2-amino-6-(2-(piperidin-4-yl)-5-(phenyl)-imidazol-4-yl)-benzimidazole | 1.23 mmol, 0.574 g | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C=2N=C(NC2C2=CC=CC=C2)C2CCNCC2)N | C24H28N6O2S
reactant | triethylamine | 3.1 mmol | C(C)N(CC)CC | C6H15N
reactant | iodoethane | 1.54 mmol | ICC | C2H5I
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-isopropylsulfonyl-2-amino-6-(2-(1-(ethyl)piperidin-4-yl)-5-(phenyl)-imidazol-4-yl)-benzimidazole | 76% yield | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C=2N=C(NC2C2=CC=CC=C2)C2CCN(CC2)CC)N | C26H32N6O2S
